US06977263B2
1N Sodium hydroxide (2 mL, 2 mmol) was added to a solution of 3-[5-(2-chlorophenyl)-[1,3,4]oxadiazole-2-yl]-benzoic acid methyl ester (113 mg, 0.36 mmol) in methanol (5 mL) and THF (2 mL), and the reaction mixture stirred at room temperature for 2 h, before neutralizing to pH 7 with 1N hydrochloric acid. The solution was concentrated to dryness in vacuo and placed under high vacuum overnight. Crude material was used directly without purification [MS(Ion spray): 301 and 303 (M++1); LC/MS purity>95%, only major impurity is sodium chloride]. 2-(1H-Benzotriazol-1-yl) -1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) (116 mg, 0.36 mmol) was added to a room temperature solution/suspension of crude 3-[5-(2-chlorophenyl)-[1,3,4]oxadiazole-2-yl]-benzoic acid and diisopropylethylamine (150 mg, 1.14 mmol) in dimethylfornamide (2 mL), under nitrogen. The reaction mixture was stirred for 10 minutes at room temperature before adding a solution of 4-[3-(N,N-di-tert -butoxycarbonylaminomethyl)phenyl]piperidine (78 mg, 0.2 mmol) and diisopropylethylamine (150 mg, 1.14 mmol) in dimethylformamide (2 mL). The reaction mixture was stirred at room temperature for 16 hours, concentrated to dryness in vacuo, and subjected to dry flash column chromatography on silica with 50:50, dichloromethane:ethyl acetate. 1-{4-[3-(N,N-di-tert -butoxycarbonylaminomethyl)phenyl]-piperidin-1-yl}-1-{3-[5-(2-chloro-phenyl)-[1,3,4]oxadiazole-2-yl]-phenyl}-methanone was isolated as a colorless oil, which was dissolved in dichloromethane (10 mL), cooled at 0° C., and treated with trifluoroacetic acid (1 mL). The reaction mixture was stirred at room temperature under nitrogen for 2 hours, and concentrated to dryness in vacuo. The residue was dissolved in 20% acetonitrile/water [containing 0.1% trifluoroacetic acid] (9 mL) and purified by preparative reverse-phase HPLC (C-18, 10 micron reverse-phase column), eluting with 20% to 60% acetonitrile/water (containing 0.1% trifluoroacetic acid). The product fractions were combined and concentrated to dryness in vacuo. The title compound was isolated as an amorphous white glass solid (98 mg, 83%). 1H NMR [(CD3)2SO]: δ 8.16 (br s, 3H, NH3+) overlapped with 8.22-8.16 (m, 2H) and 8.13 (s, H); 7.79-7.72 (m, 3H); 7.69 (td, H); 7.62 (td, H); 7.41 (s, H); 7.39-7.27 (m, 3H); 4.64 (br d, H); 4.03 (q, 2H); 3.79-3.63 (m, H); 3.28-3.20 (m, H); 3.03-2.80 (m, 2H); 1.96-1.57 (m, 4H). MS(Ion spray): 473 and 475 (M++1).

reactant | Sodium hydroxide | 2 mmol, 1N, 2 mL | [OH-].[Na+]
reactant | 3-[5-(2-chlorophenyl)-[1,3,4]oxadiazole-2-yl]-benzoic acid methyl ester | 0.36 mmol, 113 mg | COC(C1=CC(=CC=C1)C=1OC(=NN1)C1=C(C=CC=C1)Cl)=O | C16H11ClN2O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | 2-(1H-Benzotriazol-1-yl) -1,1,3,3-tetramethyluronium tetrafluoroborate | 0.36 mmol, 116 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 3-[5-(2-chlorophenyl)-[1,3,4]oxadiazole-2-yl]-benzoic acid | ClC1=C(C=CC=C1)C1=NN=C(O1)C=1C=C(C(=O)O)C=CC1 | C15H9ClN2O3
reactant | diisopropylethylamine | 1.14 mmol, 150 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[3-(N,N-di-tert -butoxycarbonylaminomethyl)phenyl]piperidine | 0.2 mmol, 78 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)C1CCNCC1 | C22H34N2O4
reactant | diisopropylethylamine | 1.14 mmol, 150 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 5 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-{4-[3-(N,N-di-tert -butoxycarbonylaminomethyl)phenyl]-piperidin-1-yl}-1-{3-[5-(2-chloro-phenyl)-[1,3,4]oxadiazole-2-yl]-phenyl}-methanone | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1C=C(C=CC1)C1CCN(CC1)C(=O)C1=CC(=CC=C1)C=1OC(=NN1)C1=C(C=CC=C1)Cl | C37H41ClN4O6
